US07737166B2
7-Fluoro-2-[N-[[2-(4-methoxybenzyl)-2H-[1,2,4]triazol-3-yl]methyl]methylamino]-5-methyl-6-phenyl-1,3-benzoxazole-4-carbonitrile (I-164)
2-Chloro-7-fluoro-5-methyl-6-phenyl-1,3-benzoxazole-4-cabonitrile (I-130) (0.20 g, 0.70 mmol), N-[[2-(4-methoxybenzyl)-2H-[1,2,4]triazol-3-yl]methyl]methylamine (I-163) (0.18 g, 0.77 mmol) and diisopropylethylamine (0.13 ml, 0.76 mmol) were dissolved in dichloromethane (10 ml), followed by heating under reflux for 3 hours. This was diluted with dichloromethane, washed with water, and dried over anhydrous sodium sulfate.

reactant | 2-Chloro-7-fluoro-5-methyl-6-phenyl-1,3-benzoxazole-4-cabonitrile | 0.70 mmol, 0.20 g | ClC=1OC=2C(N1)=C(C(=C(C2F)C2=CC=CC=C2)C)C#N | C15H8ClFN2O
reactant | N-[[2-(4-methoxybenzyl)-2H-[1,2,4]triazol-3-yl]methyl]methylamine | 0.77 mmol, 0.18 g | COC1=CC=C(CN2N=CN=C2CNC)C=C1 | C12H16N4O
reactant | diisopropylethylamine | 0.76 mmol, 0.13 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 7-Fluoro-2-[N-[[2-(4-methoxybenzyl)-2H-[1,2,4]triazol-3-yl]methyl]methylamino]-5-methyl-6-phenyl-1,3-benzoxazole-4-carbonitrile | FC=1C(=C(C(=C2N=C(OC21)N(CC=2N(N=CN2)CC2=CC=C(C=C2)OC)C)C#N)C)C2=CC=CC=C2 | C27H23FN6O2
